US07176242B2
3-(allylsulfinyl)-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide
3-(allylthio)-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide (325 mg, 0.606 mmol) was dissolved in CH2Cl2 (10 mL) and AcOH (1 mL)and treated with mCPBA (104 mg, 0.606 mmol). The reaction mixture was stirred for 2.5 h, at which time more mCPBA (20 mg, 0.11 mmol) was added and stirring continued for 30 min. more. The organic layer was diluted with Et2O and washed with 15% sodium thiosulfite solution. The organic was washed with brine, then dried (MgSO4) and concentrated to give an oil, which was chromatographed with 25% to 50% EtOAc in hexanes to give the title compound. (LRMS (M+H) m/z 553.8)

reactant | 3-(allylthio)-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide | 0.606 mmol, 325 mg | C(C=C)SC=1C=C(C(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=CC1 | C31H34F2N2O2S
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
reactant | mCPBA | 0.606 mmol, 104 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.11 mmol, 20 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 3-(allylsulfinyl)-N-((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)benzamide | C(C=C)S(=O)C=1C=C(C(=O)N[C@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=CC1 | C31H34F2N2O3S
